US08557805B2
2-{2-[5-({6-[(2-Methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}-N-methylacetamide
To a solution of {2-[5-({6-[(2-methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid (157 mg) in N,N-dimethylformamide (5 mL) were added 1-hydroxybenzotriazole monohydrate (67 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (83 mg), methylamine hydrochloride (30 mg), and triethylamine (0.060 mL), and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio) to give the title compound (84 mg, yield 52%) as a yellow oil.

reactant | {2-[5-({6-[(2-methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 157 mg | COCCOCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C27H31N3O7S
reactant | 1-hydroxybenzotriazole monohydrate | 67 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 83 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | methylamine hydrochloride | 30 mg | Cl.CN
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | triethylamine | 0.060 mL | C(C)N(CC)CC | C6H15N
product | 2-{2-[5-({6-[(2-Methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}-N-methylacetamide | 84 mg, yield 52% | COCCOCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)NC | C28H34N4O6S
